Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
GI bleed.
 
Major Surgical or Invasive Procedure:
Endoscopic gastroduodenoscopy (EGD) ___

 
History of Present Illness:
This is an ___ year-old male with a history of dementia, 
hypertension, diabetes who presents with gait unsteadiness, 
guaiac positive stools and decreased hematocrit. Patient was in 
his usual state of health until today, when after dinner, he got 
up to walk, and then sat back down because he felt unsteady. 
Patient cannot relay further history. Per report, he was also 
more confused than usual.  
.  
In the ED, initial vitals were T:96.9 BP:138/59 HR:90 RR:20 
O2Sat:99% on RA. He was found to have guaiac positive brown 
stool on rectal exam and a hematocrit of 22.5 with unclear 
baseline. He was given a dose of pantoprazole 40mg once. GI was 
contacted and the plan was for EGD in AM. 
 
Past Medical History:
#. Dementia  
#. Diabetes mellitus  
#. Hypertension  
#. Hearing loss  
#. H/o delerium  
 
Social History:
___
Family History:
NC.
 
Physical Exam:
Vitals: T:97.1 BP:148/60 HR:88 RR:20 O2Sat:100% RA  
GEN: Elderly male, NAD  
HEENT: EOMI, PERRL, pale conjunctivae, MMM, OP Clear  
NECK: Supple, no LAD  
COR: RRR, ___ systolic murmur at RUSB, normal S1 S2, radial 
pulses +2  
PULM: Lungs CTAB, no W/R/R  
ABD: Soft, NT, ND, +BS, no HSM, no masses  
EXT: No C/C/E, no palpable cords  
NEURO: Oriented to person only. Moves all 4 extremities. Able to 
stand with some assistance, but gait not assessesed.  
SKIN: No jaundice, cyanosis, or gross dermatitis. No ecchymoses.
 
Pertinent Results:
___ 11:52PM   ___ PTT-27.9 ___
___ 09:29PM   COMMENTS-GREEN TOP
___ 09:29PM   K+-4.5
___ 09:20PM   GLUCOSE-193* UREA N-25* CREAT-1.3* SODIUM-137 
POTASSIUM-4.8 CHLORIDE-104 TOTAL CO2-23 ANION GAP-15
___ 09:20PM   estGFR-Using this
___ 09:20PM   WBC-4.5 RBC-2.82* HGB-7.2* HCT-22.5* MCV-80* 
MCH-25.6* MCHC-32.1 RDW-14.4
___ 09:20PM   NEUTS-58.9 ___ MONOS-6.1 EOS-3.5 
BASOS-0.2
___ 09:20PM   PLT COUNT-322
.
ECG: Sinus rhythm with first degree AV conduction delay, normal 
axis, normal intervals non-specific ST changes in lateral leads, 
no prior for comparison.  
.  
Imaging:  
___ CXR:  
FINDINGS: The mandible is projected over the lung apices causing 
suboptimal evaluation of the apices. The visualized lungs are 
unremarkable. The cardiomediastinal silhouette is unremarkable. 
There is no rib fracture or pneumothorax.
.
EGD report ___:
Esophagus:  Normal esophagus. 
Stomach:  Other 4 x 8 mm protruding structure with clot 
overlying it at the junction of the fundus and body, likely 
dieulafoy's lesion, although submucosal lesion cannot be 
excluded. There was evidence of active bleeding after the clot 
was rinsed. 3 clips were deployed, 2 of which remained clipped 
to structure, and epinephrine 1 cc x 3 was injected to the base. 
There was resolution of bleeding.  
Duodenum:  The papilla appeared enlarged with question of an 
overlying polyp.  Cold forceps biopsies were performed for 
histology at the papilla major.  
.
 
Brief Hospital Course:
This is an ___ year-old male with h/o dementia, diabetes, 
hypertension who presents with subacute GI bleed.  
.
# OCCULT GI BLEED:  Patient underwent endoscopy on morning 
following admission.  A source of bleeding was identified in his 
stomach (see reports above) and clipped.  The bleeding resolved. 
 After the procedure, his hematocrit stablized with most recent 
23.5, up from 22.6.  He will undergo colonscopy as outpatient to 
further work-up anemia and guiac-positive stools, although we 
believe that the likely source of his anemia has been treated.  
He is being discharged on an increased dose of pantoprazole, 40 
mg PO BID.  Aspirin has been held and should be restarted at the 
discretion of his outpatient doctor.
.
# ANEMIA:  Patient never required transfusion.  His hematocrit 
remained stable throughout admission and began trending upward 
on day of discharge.  The source for his anemia was localized to 
the stomach and treated endoscopically.  He will be discharged 
on home dose of ferrous sulfate.
.
# HYPERTENSION:  His lisinopril has been held during this 
admission for concern of precipitating hypotension in the 
setting of occult blood loss.  Because he has remained 
normotensive throughout with BPs in the 130/60s, we have chosen 
not to restart his lisinopril.  His BP should be monitored as 
outpatient and consideration given to restarting lisinopril 10mg 
qday (his home dose) as needed.
.
# TACHYCARDIA:  His verapramil was held at admission for concern 
of blunting a tachycardic response if he was actively bleeding.  
After the endoscopic procedure demonstrated a site of bleeding 
and the bleeding was stopped, we restarted the verapramil.  His 
heart rate overnight was well controlled in the ___ to ___.
.
# DIABETES:  Glipizide was held and regular insulin sliding 
scale started.  He will be discharged on home dose of glipizide.
.
# HYPERCHOLESTEROL:  Continued home dose of atorvastatin.
.
# SLEEP / AGITATION / DELIRIUM:  Continued home dose of 
trazadone.
 
Medications on Admission:
#. Senna qHS  
#. Prilosec 20mg daily  
#. Atorvastatin 10mg qHS  
#. Insulin sliding scale  
#. Trazodone 50mg daily  
#. MVI  
#. ASA 81mg  
#. Lisinopril 10mg  
#. ferrous sulfat  
#. glipizide XL 5mg daily  
#. Verapamil 120mg BID  
 
Discharge Medications:
1. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed.  
2. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed.  
3. Atorvastatin 10 mg Tablet Sig: One (1) Tablet PO at bedtime.
Disp:*30 Tablet(s)* Refills:*2*
4. Trazodone 50 mg Tablet Sig: 0.25 Tablet PO BID (2 times a 
day).  
5. Multivitamin     Tablet Sig: One (1) Cap PO DAILY (Daily).  
6. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
7. Verapamil 120 mg Tablet Sustained Release Sig: One (1) Tablet 
Sustained Release PO once a day.  
8. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO twice a day.
Disp:*60 Tablet, Delayed Release (E.C.)(s)* Refills:*2*
9. Glipizide 5 mg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY 
Occult GI bleed from Dieulafoy's lesion in stomach 
Anemia 
. 
SECONDARY 
Dementia 
Diabetes mellitus II 
Hypertension 
Hearing loss 

 
Discharge Condition:
Vital signs stable.  Hematocrit stable.

 
Discharge Instructions:
You were hospitalized because we were concerned that you were 
bleeding from your gastrointestinal tract.  We were able to 
locate the source of your bleeding in your stomach and stop it 
with endoscopy.
.
We have stopped your lisinopril and your aspirin.  We have also 
increased your pantoprazole.  There have been no other changes 
to your medications.
.
You should contact your primary care provider if you notice any 
blood in your stools or if you have any worsening abdominal 
pain.
 
Followup Instructions:
___